US08044076B2
A solution of 1-amino-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (277 mg, 0.698 mmol), glycolic acid (80 mg, 1.05 mmol), DIPEA (362 mg, 2.80 mmol) and TBTU (382 mg, 1.19 mmol) in DMF (10 mL) is stirred at rt for 16 h before it is diluted with EA, washed with water, and concentrated. The crude product is purified by chromatography on prep. TLC plates with DCM containing 10% of methanol to give 2-hydroxy-N-(2-hydroxy-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propyl)-acetamide (64 mg) as a pale yellow solid, LC-MS: tR=0.94 min, [M+1]+=456.18, 1H NMR (D6-DMSO): δ 1.30 (d, J=5.9 Hz, 6H), 2.31 (s, 6H), 3.16-3.25 (m, 2H), 3.63-3.79 (m, 2H), 3.81 (d, J=5.6 Hz, 2H), 3.86-3.97 (m, 1H), 4.72-4.83 (m, 1H), 5.28 (d, J=5.3 Hz, 1H), 5.54 (t, J=5.9 Hz, 1H), 7.14 (d, J=9.1 Hz, 2H), 7.68 (t, J=5.6 Hz, 1H), 7.73 (s, 2H), 8.08 (d, J=9.1 Hz, 2H).

reactant | 1-amino-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 0.698 mmol, 277 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=CC=C(C=C1)OC(C)C)C)O | C22H27N3O4
reactant | glycolic acid | 1.05 mmol, 80 mg | C(CO)(=O)O | C2H4O3
reactant | DIPEA | 2.80 mmol, 362 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.19 mmol, 382 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-hydroxy-N-(2-hydroxy-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propyl)-acetamide | 64 mg | OCC(=O)NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=CC=C(C=C1)OC(C)C)C)O | C24H29N3O6
